US09130177B2
Synthesis of 5-chloro-2-(3,5-dimethylphenyl)quinoline
(2-Amino-6-chlorophenyl)methanol (16 g, 102 mmol), 3,5-dimethylacetophenone (22.6 g, 152 mmol), RuCl2(PPh3)3 (0.973 g, 1.015 mmol), and KOH (10.25 g, 183 mmol) were refluxed in 270 mL of toluene for 18 h. Water was collected from the reaction using a Dean-stark trap. The reaction mixture was allowed to cool to room temperature, filtered through a silica gel plug and eluted with 5% ethyl acetate in hexanes. The product was further purified by Kugelrohr distillation to give 23.5 g of crude product, which was crystallized from 60 mL of MeOH to give 8.6 g (32% yield) of the desired product.

reactant | (2-Amino-6-chlorophenyl)methanol | 102 mmol, 16 g | NC1=C(C(=CC=C1)Cl)CO | C7H8ClNO
reactant | 3,5-dimethylacetophenone | 152 mmol, 22.6 g | CC1=CC(=CC(=C1)C(=O)C)C | C10H12O
reactant | KOH | 183 mmol, 10.25 g | [OH-].[K+]
solvent | toluene | 270 mL | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-2-(3,5-dimethylphenyl)quinoline | 8.6 g, 32% yield | ClC1=C2C=CC(=NC2=CC=C1)C1=CC(=CC(=C1)C)C | C17H14ClN
